US06403561B1
Preparation of Methyl 3-(R/S)-methylindoline-2(R/S)-carboxylate
Ethyl 3-methylindole-2-carboxylate (4.06 g, 20 mmol) was dissolved in methanol (50 ml) and magnesium shavings (2.431 g, 100 mmol) were then added with stirring, at room temperature under a nitrogen atmosphere. After the reaction started, a water bath was used to maintain the reaction temperature between 15-20° C. After the end of the reaction, dichloromethane (200 ml) was added to the mixture, followed by NH4Cl solution (200 ml). The organic phase was separated out and the aqueous phase was extracted with dichloromethane (3×50 ml). The combined organic phases were dried over magnesium sulphate and the solvent was removed to give a brown oil.

reactant | Ethyl 3-methylindole-2-carboxylate | 20 mmol, 4.06 g | CC1=C(NC2=CC=CC=C12)C(=O)OCC | C12H13NO2
reactant | magnesium | 100 mmol, 2.431 g | [Mg] | Mg
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
reactant | NH4Cl | 200 ml | [NH4+].[Cl-]
solvent | methanol | 50 ml | CO | CH4O
product | Methyl 3-(R/S)-methylindoline-2(R/S)-carboxylate | CC1C(NC2=CC=CC=C12)C(=O)OC | C11H13NO2
